US06048885
Benzene (5 ml) and thionyl chloride (0.36 g, 3.0 mmol) were added to 2-hydroxymethylphenyl 3-methylisoxazol-5-yl ketone O-methyloxime (0.62 g, 2.5 mmol), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-chloromethylphenyl 3-methylisoxazol-5-yl ketone O-methyloxime (0.26 g, yield: 39.3%) as a colorless oil.

reactant | thionyl chloride | 3.0 mmol, 0.36 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethylphenyl 3-methylisoxazol-5-yl ketone O-methyloxime | 2.5 mmol, 0.62 g | CON=C(C1=C(C=CC=C1)CO)C1=CC(=NO1)C | C13H14N2O3
solvent | Benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2-chloromethylphenyl 3-methylisoxazol-5-yl ketone O-methyloxime | 0.26 g, yield: 39.3% | CON=C(C1=C(C=CC=C1)CCl)C1=CC(=NO1)C | C13H13ClN2O2
